US07732448B2
The mixture of 10 g of 3,3-dimethylsuccinic acid and 102.7 g of urea was stirred for 10 hours at 160° C. Into the reaction mixture was added water at 100° C., and the mixture was cooled to near room temperature. The mixture was extracted with ethyl acetate three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 7.8 g of 3,3-dimethylpyrrolidin-2,5-dione.

reactant | 3,3-dimethylsuccinic acid | 10 g | CC(CC(=O)O)(C(=O)O)C | C6H10O4
reactant | urea | 102.7 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 3,3-dimethylpyrrolidin-2,5-dione | 7.8 g | CC1(C(NC(C1)=O)=O)C | C6H9NO2
